US07981874B2
[4-(2-tert-Butoxycarbonylamino-5-thiophen-2-yl-phenylcarbamoyl)-benzyl]-methyl-phosphinic acid.
To a solution [4-(2-tert-butoxycarbonylamino-5-thiophen-2-yl-phenylcarbamoyl)-benzyl]-methyl-phosphinic acid ethyl ester (377 mg, 0.733 mmol) in dioxane (2 mL) was added NaOH (1 mL, 5.00 mmol, 5M) and the solution was heated to 60° C. After 18 h, the reaction was diluted with EtOAc, acidified with 1N HCl. The organic layer was dried (MgSO4), filtered and the solvent was evaporated under reduced pressure. The material was used without further purification. 1H NMR (DMSO-d6) δ 9.94 (s, 1H), 8.74 (br s, 1H), 7.91 (d, J=8.2 Hz, 2H), 7.79 (d, J=2.0 Hz, 1H), 7.58 (d, J=8.5 Hz, 1H), 7.50 (dd, J=5.0, 1.2 Hz, 1H), 7.48 (dd, J=8.5, 2.0 Hz, 1H), 7.44-7.39 (m, 3H), 7.10 (dd, J=5.3, 3.5 Hz, 1H), 3.13 (d, J=17.9 Hz, 2H), 1.43 (s, 9H), 1.21 (d, J=13.8 Hz, 3H). MS: cal'd 387 (MH+; -Boc), exp 387 (MH+; -Boc).

reactant | [4-(2-tert-butoxycarbonylamino-5-thiophen-2-yl-phenylcarbamoyl)-benzyl]-methyl-phosphinic acid ethyl ester | 0.733 mmol, 377 mg | C(C)OP(=O)(C)CC1=CC=C(C=C1)C(NC1=C(C=CC(=C1)C=1SC=CC1)NC(=O)OC(C)(C)C)=O | C26H31N2O5PS
reactant | NaOH | 5.00 mmol, 5M, 1 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | [4-(2-tert-Butoxycarbonylamino-5-thiophen-2-yl-phenylcarbamoyl)-benzyl]-methyl-phosphinic acid | C(C)(C)(C)OC(=O)NC1=C(C=C(C=C1)C=1SC=CC1)NC(=O)C1=CC=C(CP(O)(=O)C)C=C1 | C24H27N2O5PS
